US07741488B2
Preparation of 2-(2-methyl-imidazol-1-yl)-ethanol
A solution of (2-methyl-imidazol-1-yl)-acetic acid methyl ester (2,6 g) in diethyl ether (39 ml) is added drop wise to a suspension of LiAlH4 (1,3 g) in 130 ml diethyl ether (130 ml) at 0° C. After 1 hour 1.3 g water, 1.3 g 15% NaOH and 4 g water is added and the slurry stirred for 1 hour. After addition of MgSO,4;and filtration the filter cake is washed several times with hot ethyl acetate. After removal of the solvent, the crude product is used without further purification.

reactant | (2-methyl-imidazol-1-yl)-acetic acid methyl ester | 2,6 g | COC(CN1C(=NC=C1)C)=O | C7H10N2O2
reactant | LiAlH4 | 1,3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.3 g | O | H2O
reactant | NaOH | 1.3 g | [OH-].[Na+]
reactant | water | 4 g | O | H2O
solvent | diethyl ether | 39 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 130 ml | C(C)OCC | C4H10O
product | 2-(2-methyl-imidazol-1-yl)-ethanol | CC=1N(C=CN1)CCO | C6H10N2O
